US06455525B1
(b) Preparation of ethyl 3-indol-3-yl-3-oxopropanoate (Va)
A solution of diisopropyl amine (13 mL, 100 mmol) and tetramethylethylene diamine (15 mL, 100 mmol) in THF (150 mL) was cooled in dry ice-acetone bath under argon atmosphere. A 2.5N solution of n-butyl lithium in hexane (40 mL, 100 mmol) was added over 30 minutes and EtOAc (10 mL, 108 mmol) was added and solution stirred for additional 30 minutes. A solution of N-BOC methyl indole-3-carboxylate (IIIa) (6.875 g, 25 mmol), in THF (50 mL) was added rapidly and the reaction mixture was stirred at −78° C. for 1 h and then at −15° C. for an additional 1 h. Reaction mixture was allowed to warm to 15° C., and the reaction was quenched with glacial acetic acid (10 mL). Ethyl acetate (250 mL) was added and the organic layer was successively washed with 1N citric acid solution (2×150 mL), saturated brine (2×100 mL), the organic layer was dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The crude product was purified was purified by flash chromatography over silica gel and 1:1 ethyl acetate and hexane were used as eluent to provide the desired compound (Va) (1.2 g) and its N-BOC derivative (Vb) (1.2 g) in a combined yield of 30%.

reactant | diisopropyl amine | 100 mmol, 13 mL | C(C)(C)NC(C)C | C6H15N
reactant | tetramethylethylene diamine | 100 mmol, 15 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 100 mmol, 40 mL | CCCCCC | C6H14
reactant | EtOAc | 108 mmol, 10 mL | CCOC(=O)C | C4H8O2
reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | ethyl 3-indol-3-yl-3-oxopropanoate | 1.2 g, yield of 30% | N1C=C(C2=CC=CC=C12)C(CC(=O)OCC)=O | C13H13NO3
